US05965730
To a solution of 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde (4.5 g) in methanol (70 ml) is added dropwise hydrazine monohydrate (0.8 ml). The reaction mixture is cooled with ice, and the precipitates are collected by filtration, and recrystallized from methanol to give 2-bromo-4-(6,7-dimethoxyphthalazin-1-yl)pyridine (4.01 g) as yellow crystals.

reactant | 3,4-dimethoxy-6-(2-bromoisonicotinoyl)benzaldehyde | 4.5 g | COC=1C=C(C=O)C(=CC1OC)C(C1=CC(=NC=C1)Br)=O | C15H12BrNO4
reactant | hydrazine monohydrate | 0.8 ml | O.NN
solvent | methanol | 70 ml | CO | CH4O
product | 2-bromo-4-(6,7-dimethoxyphthalazin-1-yl)pyridine | 4.01 g | BrC1=NC=CC(=C1)C1=NN=CC2=CC(=C(C=C12)OC)OC | C15H12BrN3O2
